US05102877
To a solution of (5R,6S)-3-[(1S)-1,2-diaminoethyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (1.00 g) in a mixture of water (100 ml) and tetrahydrofuran (100 ml) was added portionwise ethyl acetimidate hydrochloride (1.00 g) under ice-cooling with stirring, keeping the pH between 8.0 and 8.5 with saturated aqueous potassium carbonate. After stirring for 2 hours, the mixture was concentrated under reduced pressure to be about 10 ml-volume. The aqueous solution was subjected to a column chromatography on silica gel (100 g) and eluted with a mixture of water and acetonitrile (6:4, V/V). The fractions containing the object compound were collected, concentrated under reduced pressure, and lyophilized to give a solid. A solution of the solid in water (10 ml) was subjected to a column chromatography on "Diaion HP-20" and eluted with water. The fractions containing the objected compound were collected, concentrated under reduced pressure, and lyophilized to give (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[(4S)-2-methyl-2-imidazolin-4-yl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.08 g) as a solid.

reactant | (5R,6S)-3-[(1S)-1,2-diaminoethyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 1.00 g | N[C@H](CN)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)O | C11H17N3O4
reactant | ethyl acetimidate hydrochloride | 1.00 g | Cl.C(C)(OCC)=N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[(4S)-2-methyl-2-imidazolin-4-yl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.08 g | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)[C@@H]1N=C(NC1)C | C13H17N3O4
